US09352049B2
To a solution of paclitaxel (36 mg; 0.042 mmol) and imidazole (34 mg; 0.505 mmol) in 0.35 mL of dry DMF under nitrogen, was added a crude sample of benzyl 2-((1-chlorosilolan-1-yl)oxy)acetate of undetermined titre. A total of 103 mg of crude silyl chloride was added in 2 portions over a 3 hour period. After another 3 hours at room temperature, the reaction was quenched with H2O and extracted with CH2Cl2 (3×5 mL). The combined organic layers were dried, filtered and concentrated. The residue was purified by column chromatography to give 33 mg (71%) of (2aR,4S,4aS,6R,9S,11S,12S,12bS)-9-(((2R,3S)-3-benzamido-2-hydroxy-3-phenylpropanoyl)oxy)-12-(benzoyloxy)-4-((1-(2-(benzyloxy)-2-oxoethoxy)silolan-1-yl)oxy)-11-hydroxy-4a,8,13,13-tetramethyl-5-oxo-2a,3,4,4a,5,6,9,10,11,12,12a,12b-dodecahydro-1H-7,11-methanocyclodeca[3,4]benzo[1,2-b]oxete-6,12b-diyl diacetate as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.13-8.10 (m, 2H), 7.77-7.74 (m, 2H), 7.61 (dddd, J=1.5, 1.5, 7.4, 7.4 Hz, 1H), 7.52-7.46 (m, 5H), 7.41-7.32 (m, 10H), 7.16 (d, J=9.0 Hz, 1H), 6.40 (s, 1H), 6.18 (dd, J=8.8, 8.8 Hz, 1H), 5.79 (dd, J=9.0, 2.4 Hz, 1H), 5.68 (d, J=7.0 Hz, 1H), 5.19 (s, 2H), 4.90 (dd, J=9.4, 1.4 Hz, 1H), 4.81-4.77 (m, 1H), 4.57 (dd, J=10.5, 6.7 Hz, 1H), 4.40-4.27 (m, 2H), 4.30 (d, J=8.4 Hz, 1H), 4.18 (d, J=9.1 Hz, 1H), 3.88 (d, J=5.3 Hz, 1H), 3.83 (d, J=6.9 Hz, 1H), 2.62-2.49 (m, 1H), 2.38 (s, 3H), 2.34-2.27 (m, 2H), 2.13 (s, 3H), 1.94 (ddd, J=14.0, 11.0, 2.0 Hz, 1H), 1.84 (s, 3H), 1.69 (s, 3H), 1.62-1.48 (m, 4H), 1.20 (s, 3H), 1.18 (s, 3H), 0.67-0.56 (m, 2H), 0.55-0.42 (m, 2H). MS (ESI+) m/z 1124.5 (M+Na).

reactant | paclitaxel | 0.042 mmol, 36 mg | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | imidazole | 0.505 mmol, 34 mg | N1C=NC=C1 | C3H4N2
reactant | benzyl 2-((1-chlorosilolan-1-yl)oxy)acetate | Cl[Si]1(CCCC1)OCC(=O)OCC1=CC=CC=C1 | C13H17ClO3Si
reactant | silyl chloride | 103 mg | [SiH3]Cl | ClH3Si
solvent | DMF | 0.35 mL | CN(C)C=O | C3H7NO
product | (2aR,4S,4aS,6R,9S,11S,12S,12bS)-9-(((2R,3S)-3-benzamido-2-hydroxy-3-phenylpropanoyl)oxy)-12-(benzoyloxy)-4-((1-(2-(benzyloxy)-2-oxoethoxy)silolan-1-yl)oxy)-11-hydroxy-4a,8,13,13-tetramethyl-5-oxo-2a,3,4,4a,5,6,9,10,11,12,12a,12b-dodecahydro-1H-7,11-methanocyclodeca[3,4]benzo[1,2-b]oxete-6,12b-diyl diacetate | 33 mg, 71% | C(C)(=O)O[C@H]1C([C@]2(C([C@]3([C@H](OC3)C[C@@H]2O[Si]2(CCCC2)OCC(=O)OCC2=CC=CC=C2)OC(C)=O)[C@@H]([C@@]2(C[C@@H](C(=C1C2(C)C)C)OC([C@@H]([C@H](C2=CC=CC=C2)NC(C2=CC=CC=C2)=O)O)=O)O)OC(C2=CC=CC=C2)=O)C)=O | C60H67NO17Si
